US05047411
A mixture of 2-chloromethyl-7-methylimidazo[1,2-a]pyridine (5.0 g) and thiourea (2.2 g) in ethanol (10 ml) was refluxed for 20 minutes and the mixture was added to a ethyl acetate (100 ml) under stirring. The isolated precipitate was collected by filtration and washed with ethyl acetate to give S-(7-methylimidazo[1,2-a]pyridin-2-ylmethyl)isothiourea hydrochloride (7.11 g).

reactant | 2-chloromethyl-7-methylimidazo[1,2-a]pyridine | 5.0 g | ClCC=1N=C2N(C=CC(=C2)C)C1 | C9H9ClN2
reactant | thiourea | 2.2 g | NC(=S)N | CH4N2S
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | S-(7-methylimidazo[1,2-a]pyridin-2-ylmethyl)isothiourea hydrochloride | 7.11 g | Cl.CC1=CC=2N(C=C1)C=C(N2)CSC(N)=N | InChI=1S/C10H12N4S.ClH/c1-7-2-3-14-5-8(6-15-10(11)12)13-9(14)4-7;/h2-5H,6H2,1H3,(H3,11,12);1H
